US04301163
2-[(3,4,5-trimethoxy)benzyloxy]-2-phenyl-N,N-dimethyl-n-butylamine
Prepared according to the process described in Example 3 from 1-phenyl-1-dimethylaminomethyl-1-propanol and from 3,4,5-trimethoxy-α-chlorotoluene.

reactant | 1-phenyl-1-dimethylaminomethyl-1-propanol | C1(=CC=CC=C1)C(CC)(O)CN(C)C | C12H19NO
reactant | 3,4,5-trimethoxy-α-chlorotoluene | COC=1C=C(C=C(C1OC)OC)CCl | C10H13ClO3
product | 2-[(3,4,5-trimethoxy)benzyloxy]-2-phenyl-N,N-dimethyl-n-butylamine | COC=1C=C(COC(CN(C)C)(CC)C2=CC=CC=C2)C=C(C1OC)OC | C22H31NO4
